US04725645
1.c: Alanine-Serine
The formation of Z--Ala--SerOH is obtained by the same process as that described in Example 1.a, but using 1.1 mmol of lyophilised hydrated serine in place of cysteine and 1 mmol of alanine protected by Z and activated in place of glycine.

reactant | alanine | 1 mmol | N[C@@H](C)C(=O)O | C3H7NO2
reactant | glycine | NCC(=O)O | C2H5NO2
product | Alanine Serine | N[C@@H](C)C(=O)O.N[C@@H](CO)C(=O)O | InChI=1S/C3H7NO3.C3H7NO2/c4-2(1-5)3(6)7;1-2(4)3(5)6/h2,5H,1,4H2,(H,6,7);2H,4H2,1H3,(H,5,6)/t2*2-/m00/s1
